US04082751
Preparation 49: 1,6-Dihydro-6-oxo-2-(2-allyloxyphenyl)-pyrimidine-5-carboxamide
A mixture of ethyl 1,6-dihydro-6-oxo-2-(2-allyloxyphenyl)-pyrimidine-5-carboxylate (5.0 g.) and liquid ammonia (50 ml.) in a steel bomb was kept at 25° for 18 hours and then heated on a steam bath for 2.5 hours. The ammonia was removed. The residue was dissolved in water and the solution acidified with acetic acid. The precipitated title compound (4.4 g., 97%), m.p. 202-204° with resolodification and remelting at 275°-280° , was recrystallized from ethanol to give analytical material, m.p. 205°-207° .

reactant | ethyl 1,6-dihydro-6-oxo-2-(2-allyloxyphenyl)-pyrimidine-5-carboxylate | 5.0 g | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC=C)C(=O)OCC | C16H16N2O4
reactant | ammonia | 50 ml | N | H3N
product | 1,6-Dihydro-6-oxo-2-(2-allyloxyphenyl)-pyrimidine-5-carboxamide | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC=C)C(=O)N | C14H13N3O3
